US07883713B2
N-[5-(Aminosulfonyl)-4-methyl-1,3-thiazol-2-yl]-N-methyl-2-[4-(2-pyridyl)phenyl]acetamide
300 mg (1.41 mmol) of [4-(2-pyridyl)phenyl]acetic acid and 190 mg (1.41 mmol) of 1-hydroxy-1H-benzotriazole hydrate are introduced into 4 ml of dimethylformamide at room temperature. 307 mg (1.48 mmol) of 2-methylamino-4-methyl-1,3-thiazole-5-sulfonamide and 284 mg (1.48 mmol) of N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride are added, and the mixture is stirred at room temperature for 18 h. The solvent is then removed in vacuo, the residue is taken up in toluene, and the solvent is again removed in vacuo. The residue is stirred with 15 ml of water and 3 ml of methanol and then filtered off, and the filtrate is back-extracted with 20 ml of dichloromethane. Solid and dichloromethane phase are combined, and the solvent is removed in vacuo. The compound of Example 38 is obtained in the form of a white solid.

reactant | [4-(2-pyridyl)phenyl]acetic acid | 1.41 mmol, 300 mg | N1=C(C=CC=C1)C1=CC=C(C=C1)CC(=O)O | C13H11NO2
reactant | 1-hydroxy-1H-benzotriazole hydrate | 1.41 mmol, 190 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 2-methylamino-4-methyl-1,3-thiazole-5-sulfonamide | 1.48 mmol, 307 mg | CNC=1SC(=C(N1)C)S(=O)(=O)N | C5H9N3O2S2
reactant | N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride | 1.48 mmol, 284 mg | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | N-[5-(Aminosulfonyl)-4-methyl-1,3-thiazol-2-yl]-N-methyl-2-[4-(2-pyridyl)phenyl]acetamide | NS(=O)(=O)C1=C(N=C(S1)N(C(CC1=CC=C(C=C1)C1=NC=CC=C1)=O)C)C | C18H18N4O3S2
